US07348432B2
A. 5-(3-Fluoro-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one
The title compound was prepared in 32% yield according to the procedure described in Example 2, starting from 5-bromo-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (prepared according to the procedure described in WO2003082868, Page 33) and 3-fluoro-phenyl boronic acid. 1H NMR is the same as the one reported in WO2003082868, page 34.

reactant | 5-bromo-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | BrC=1C=C2C(=NC1)NC(C2)=O | C7H5BrN2O
reactant | 3-fluoro-phenyl boronic acid | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
product | 5-(3-Fluoro-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 32% yield | FC=1C=C(C=CC1)C=1C=C2C(=NC1)NC(C2)=O | C13H9FN2O
